Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Percocet / milk
 
Attending: ___.
 
Chief Complaint:
abdominal distention
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
HPI: ___ G1P1 who presents to the ED with abdominal distension,
bloating, early satiety, and 20 lb weight loss. She reports she
first experienced abdominal pain in ___ that lasted until
early ___. She saw her PCP several times who thought it was
likely bloating from GI issues. Pain went away in ___, when
she started noticing some abdominal distension. She reports
decreased appetite since around that same time with a 20 lb
weight loss. She initially thought weight loss was d/t change in
diet given constipation. 

She denies any associated chest pain or shortness of breath. She
denies fevers, chills, dysuria. Intermittent constipation. She
denies any abdominal vaginal discharge. 

ROS: all systems negative unless noted above

 
Past Medical History:
PMH: hypertension
PSH: arm surgery 

 
Social History:
___
Family History:
FamHx:
- Father with colon cancer in his ___
- Sister with breast cancer in her ___

 
Physical Exam:
On admission:
T 98.2  HR 80-101  BP 141/87  RR 16  (&% RA
Gen: A&O, comfortable
CV: RRR
PULM: CTAB, crackles at bases b/l 
Abd: soft, significantly distended, nontender, no rebound or
guarding. No masses palpated. 
Bimanual: Exam limited by ascites. Nontender, no adnexal masses
palpated. 
Spec: nl external genitalia, atrophic vaginal epithelium,
physiologic mucous, nl appearing cervix. 
Ext: no calf tenderness
 

On discharge:
24 HR Data (last updated ___ @ 517)
    Temp: 97.7 (Tm 97.7), BP: 140/78 (140-147/76-78), HR: 88
(86-88), RR: 18, O2 sat: 95% (93-95), O2 delivery: RA
Fluid Balance (last updated ___ @ 518)
  Last 8 hours  Total cumulative 0ml
    IN: Total 0ml
    OUT:  Total 0ml, Urine Amt 0ml
  Last 24 hours  Total cumulative 0ml
    IN: Total 0ml
    OUT:  Total 0ml, Urine Amt 0ml

General: NAD, comfortable
CV: RRR
Lungs: CTAB
Abdomen: soft, moderately distended, non tender, faint bowel
sounds. 
Extremities: no edema, no TTP, pneumoboots in place bilaterally 
 
Pertinent Results:
___ 06:15AM BLOOD WBC-4.8 RBC-4.30 Hgb-12.0 Hct-37.7 MCV-88 
MCH-27.9 MCHC-31.8* RDW-12.7 RDWSD-40.2 Plt ___
___ 11:30AM BLOOD WBC-6.0 RBC-4.71 Hgb-13.2 Hct-42.4 MCV-90 
MCH-28.0 MCHC-31.1* RDW-12.8 RDWSD-42.2 Plt ___
___ 06:15AM BLOOD ___ PTT-27.7 ___
___ 06:15AM BLOOD Glucose-97 UreaN-6 Creat-0.7 Na-140 K-4.1 
Cl-102 HCO3-27 AnGap-11
___ 11:30AM BLOOD Glucose-121* UreaN-7 Creat-0.8 Na-143 
K-4.6 Cl-104 HCO3-28 AnGap-11
___ 06:15AM BLOOD Calcium-8.8 Phos-4.2 Mg-2.0
___ 11:30AM BLOOD CEA-1.4 CA125-826*

CT A/P (___)
IMPRESSION: 
1. Large volume abdominopelvic ascites with an ill-defined right 
ovarian 
cystic mass measuring up to 3.1 cm concerning for ovarian 
malignancy.  This is associated with peritoneal/omental 
nodularity suspicious for peritoneal carcinomatosis. 
2. Severe attenuation of the splenic vein with extensive splenic 
and gastric varices. 
3. Moderate left and trace right pleural effusions. 

CT CHEST (___)
IMPRESSION: 
1. Solitary 7 mm subpleural pulmonary nodule along the anterior 
aspect of the right upper lobe.  Continued close attention on 
follow-up imaging is 
recommended. 
2. Moderate sized left pleural effusion and small right pleural 
effusion, with mild adjacent compressive atelectasis. 
3. 8 mm hypodense nodule within the left thyroid lobe.  No 
further imaging 
necessary at this time, as per the ACR guidelines included 
below. 
4. Partially visualized upper abdomen demonstrating large volume 
ascites 
fluid.  Please see dedicated report of CT abdomen/pelvis 
performed on ___ for complete description of subdiaphragmatic 
findings. 

 
Brief Hospital Course:
Ms. ___ is a ___ year old who presented to the emergency 
department on ___ for abdominal pain and who was found to have, 
on CT abdomen/pelvis imaging, ascites, bilateral pleural 
effusions, right sided ovarian lesions concerning for malignancy 
of gynecologic origin.

Patient was subsequently admitted to the gynecology oncology 
service for further management of her ascites and pain. She 
received IV morphine and Tylenol for her pain. Her CA 125 was 
found to be elevated at 829. Her CEA was within normal limits. 
She was made NPO at midnight for possible ___ guided therapeutic 
drainage and omental biopsy. On ___, she underwent a CT of 
the chest that showed a solitary 7 mm subpleural pulmonary 
nodule along the anterior aspect of the  right upper lobe as 
well as a moderatlye sized left pleural effusion and small right 
pleural effusion, with  mild adjacent compressive atelectasis. 
It also noted an 8 mm hypodense nodule within the left thyroid 
lobe as well as a partially visualized upper abdomen 
demonstrating large volume ascites fluid. 

In the afternoon of ___, patient was in stable condition 
with improved pain. Given her stable vitals and overall improved 
disposition, patient was deemed stable for discharge to home 
with plan for outpatient paracentesis. She was thus discharged 
to home with this plan and with gynecology oncology follow up. 
 
Medications on Admission:
losartan, vit D

 
Discharge Medications:
1.  Losartan Potassium 25 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
ascites
right ovarian lesion 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to the gynecology service due to a new finding 
of an ovarian lesion and ascites. You underwent imaging and 
labwork. Recommendation was made for paracentesis (removing the 
fluid) and biopsy (tissue sample). This will take place 
outpatient.

Call your doctor at ___ for:  
* fever > 100.4  
* severe abdominal pain  
* difficulty urinating  
* vaginal bleeding requiring >1 pad/hr  
* abnormal vaginal discharge  
* redness or drainage from incision  
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication  
* chest pain or difficulty breathing 
* onset of any concerning symptoms 
 
Followup Instructions:
___